US04288437
(E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one
0.5 gm (0.00186 mol) of (E)-2-[(hydroxyamino) phenylmethylene]-benzo[b]thiophen-3(2H)-one, dissolved in 10 cc of glacial acetic acid, was catalytically hydrogenated for 21/2 hours at a hydrogen pressure of 5 bar in the presence of 0.2 gm of platinum(IV) oxide. At the end of the hydrogen uptake, the catalyst-free solution was stirred into 100 cc of water, exhaustively extracted with ether, the combined ether extracts are successively washed with water, saturated aqueous sodium bicarbonate solution and then again with water, followed by drying over sodium sulfate. The crystalline residue left behind after expelling the solvent was recrystallized twice in the presence of activated carbon from a mixture of petroleum ether and ethyl acetate (2:1). 0.37 gm (79% of theory) of egg-yellow crystals, m.p. 121°-122° C., were obtained which, on the basis of the thin-layer chromatogram, mixed melting point and IR spectrum, were found to be identical to the product obtained according to Example 1.

reactant | (E)-2-[(hydroxyamino) phenylmethylene]-benzo[b]thiophen-3(2H)-one | 0.00186 mol, 0.5 gm | ON\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NO2S
reactant | hydrogen | [H][H] | H2
reactant | water | 100 cc | O | H2O
solvent | acetic acid | 10 cc | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | 0.2 gm | [Pt](=O)=O
product | (E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NOS
